US08912188B2
To a solution of methyl 3-[benzyl(methyl)amino]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (200 mg, 0.62 mmol) in dichloromethane (30 mL) was added pyridine (196 mg, 2.48 mmol), followed by Tf2O (349 mg, 1.24 mmol) at room temperature. The mixture was stirred overnight at room temperature, then quenched with water (100 mL), extracted with dichloromethane (3×20 mL1), and the organic layers combined and dried over anhydrous magnesium sulfate and concentrated under vacuum to afford methyl 3-(benzyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as a red solid (300 mg, crude).

reactant | methyl 3-[benzyl(methyl)amino]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 0.62 mmol, 200 mg | C(C1=CC=CC=C1)N(C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O)C | C18H17N3O3
reactant | pyridine | 2.48 mmol, 196 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 1.24 mmol, 349 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl 3-(benzyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | C(C1=CC=CC=C1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F)C | C19H16F3N3O5S
